US05639786
(i) 2-Methyl-1-ethoxycarbonyl-2-thiopseudourea
To a solution of sodium ethoxide in ethanol (made by addition of sodium (0.155 g, 6.7 mmol) to dry ethanol(15 ml)) was added methyl iodide (1.47 ml, 23.6 mmol) followed by N-carbethoxythiourea (1.0 g, 6.7 mmol). The resulting solution was stirred at 21° C. under nitrogen for 1 hr. This was then treated with ether (32 ml) and the resultant precipitate filtered off. The filtrate was evaporated to a clear syrup, which crystallised at 0-4° C. to give the title compound as a white solid (0.815 g).

reactant | sodium ethoxide | [O-]CC.[Na+]
reactant | ethanol | 6.7 mmol, 15 ml, 0.155 g | C(C)O | C2H6O
reactant | methyl iodide | 23.6 mmol, 1.47 ml | CI | CH3I
reactant | N-carbethoxythiourea | 6.7 mmol, 1.0 g | C(=O)(OCC)NC(=S)N | C4H8N2O2S
solvent | ether | 32 ml | CCOCC | C4H10O
product | 2-Methyl-1-ethoxycarbonyl-2-thiopseudourea | 0.815 g | CSC(NC(=O)OCC)=N | C5H10N2O2S
